US06248754B1
N-(2-(2-Hydroxyethyl)-8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide
N-(2-(2-Tert-butyldimethylsilyloxyethyl)-8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide (0.09 g) in tetrahydrofuran (10 ml) was treated with tetrabutylammonium fluoride in tetrahydrofuran (1M, 0.16 ml) at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with water, the organic phase dried (MgSO4) and solvent removed at reduced pressure. The residue was column chromatographed (silica gel, ammonia/methanol/dichloromethane mixtures as eluant) to give the title compound (0.04 g)

reactant | N-(2-(2-Tert-butyldimethylsilyloxyethyl)-8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.09 g | [Si](C)(C)(C(C)(C)C)OCCN1CC2=C(C(=CC=C2CC1)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)Cl | C26H34ClF3N2O3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 0.16 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-(2-Hydroxyethyl)-8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.04 g | OCCN1CC2=C(C(=CC=C2CC1)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)Cl | C20H20ClF3N2O3
